US07863313B2
Preparation of 2-(2-hydroxyethoxy)-2-(4-hydroxyphenyl)-1,3-dioxolane (Compound 2)
To a solution of p-hydroxybenzaldehyde (1 g, 8.18 mmol) in anhydrous toluene (100 mL) was added ethylene glycol (0.68 mL, 12.28 mmol), pyridinium toluene sulphonate (0.2 g, 0.88 mmol) and p-toluene sulphonic acid monohydrate (0.16 g, 0.88 mmol). The solution was refluxed overnight before concentrating the solvent to furnish an amber gum. Saturated sodium bicarbonate (50 mL) was then added to the reaction mixture, and extracted with ethyl acetate (3×50 mL). The organic extracts were dried over magnesium sulphate, filtered, and concentrated to furnish a dark brown gum. The gum was chromatographed on silica (ether/methanol, 9.5:0.5) to furnish the title compound as a dark brown solid (173 mg, 9%).

reactant | p-hydroxybenzaldehyde | 8.18 mmol, 1 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | ethylene glycol | 12.28 mmol, 0.68 mL | C(CO)O | C2H6O2
reactant | pyridinium toluene sulphonate | 0.88 mmol, 0.2 g | C=1(C(=CC=CC1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | p-toluene sulphonic acid monohydrate | 0.88 mmol, 0.16 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-hydroxyethoxy)-2-(4-hydroxyphenyl)-1,3-dioxolane | 173 mg, 9% | OCCOC1(OCCO1)C1=CC=C(C=C1)O | C11H14O5
